US05489614
b) 4'-Hydroxy-3'-methoxy-2-bromoisobutyrophenone
A solution of 3',4'-dimethoxy-2-bromoisobutyrophenone (11.5 g) and aluminium bromide (21.8 g) in toluene (220 ml) was refluxed for 15 min. After cooling the reaction mixture was poured into ice (300 g) and 1N hydrochloric acid (200 ml). The organic phase was separated and dried over Na2SO4. The solvent was evaporated in vacuo yielding a pale yellow oil (10.0 g).

reactant | 3',4'-dimethoxy-2-bromoisobutyrophenone | 11.5 g | COC=1C=C(C=CC1OC)C(C(C)(C)Br)=O | C12H15BrO3
reactant | aluminium bromide | 21.8 g | [Br-].[Al+3].[Br-].[Br-]
reactant | hydrochloric acid | 1N, 200 ml | Cl | ClH
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
product | 4'-Hydroxy-3'-methoxy-2-bromoisobutyrophenone | 10.0 g | OC1=C(C=C(C=C1)C(C(C)(C)Br)=O)OC | C11H13BrO3
